US07943768B2
(3R)-3-{[4-(4-Fluorophenyl)piperazin-1-yl]carbonyl}-1-isopropylpiperazine
To a stirred solution of (2R)-1-(tert-butoxycarbonyl)-4-isopropylpiperazine-2-carboxylic acid (0.078 g, 0.29 mmol, 50% strength by NMR), 1-(4-fluorophenyl)-piperazine (0.031 g, 0.174 mmol), HOBT (0.024 g, 0.174 mmol) and DIPEA (0.091 ml, 0.52 mmol) in DMF (2 ml) was added EDCI (0.033 g, 0.174 mmol) and the reaction allowed to stir at room temperature over weekend. The solvents were then removed in vacuo and the residue partitioned between DCM/water, extracted twice with DCM, the organics passed through phase separating cartridge and concentrated under reduced pressure to give a colourless gum. This was then purified by prep HPLC (basic, high throughput machine) to give a white solid. This was then dissolved in DCM (2 ml), TFA (2 ml) added and reaction allowed to stir overnight at room temperature. The solvents were then removed under reduced pressure to give a brown gum. This was partitioned between DCM and 2M NaOH, extracted twice with DCM, the combined organics passed through a phase separating cartridge and concentrated in vacuo to give the title compound, as a yellow gum (12 mg, 0.036 mmol, 12% over 2 steps).

reactant | (2R)-1-(tert-butoxycarbonyl)-4-isopropylpiperazine-2-carboxylic acid | 0.29 mmol, 0.078 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(C)C)C(=O)O | C13H24N2O4
reactant | 1-(4-fluorophenyl)-piperazine | 0.174 mmol, 0.031 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | HOBT | 0.174 mmol, 0.024 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.52 mmol, 0.091 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 0.174 mmol, 0.033 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | (3R)-3-{[4-(4-Fluorophenyl)piperazin-1-yl]carbonyl}-1-isopropylpiperazine | FC1=CC=C(C=C1)N1CCN(CC1)C(=O)[C@H]1CN(CCN1)C(C)C | C18H27FN4O
